US04990523
5-(Aminosulfonyl)-2-hydroxybenzoic acid
A mixture of 2-methoxy-5-sulfamoylbenzoic acid (58 g, 0.25 mole), 48% hydrobromic acid (150 ml), and acetic acid (150 ml) was heated to reflux for five hours. The progress of reaction was checked by thin layer chromatography (silica gel, 7:2:1 ethylacetate/methanol/29% ammonium hydroxide). Upon cooling, a solid crystallized out which was collected by filtration, and rinsed with cold water. This solid was dissolved in hot water (≤85° C.) and filtered through Celite® and recrystallized from the cool filtrate. Some of the recrystallized material was crystallized once more by dissolving in methanol, filtering, and mixing with excess amount of 1,1,1-trichloroethane. The mixture was evaporated to remove most of the methanol, and the resulting crystallizing mixture was stirred in ice bath. The solid was collected by filtration and rinsed with 1,1,1-trichloroethane, vacuum pumped at room temperature overnight to give a white solid, mp 234°-235° C.

reactant | 2-methoxy-5-sulfamoylbenzoic acid | 0.25 mole, 58 g | COC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C8H9NO5S
reactant | hydrobromic acid | 150 ml | Br | BrH
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethylacetate methanol | C(C)OC(C)=O.CO
product | 5-(Aminosulfonyl)-2-hydroxybenzoic acid | NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H7NO5S
